US07049444B2
N-{3-[3-(1-Benzofuran-2-ylcarbonyl)-6-methyl-3-azabicyclo[3.1.0]hex-6-yl]phenyl}methanesulfonamide
To a solution of 1-benzofuran-2-carboxylic acid (201 mg, 1.24 mmol) in N,N-dimethylformamide (25 ml) was added 1-hydroxybenzotriazole monohydrate (200 mg, 1.31 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (340 mg, 1.77 mmol). After stirring at room temperature for 10 min the mixture was treated with the hydrochloride salt of N-[3-(6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]methanesulfonamide (Preparation 53, 400 mg, 1.3 mmol) and sodium hydrogen carbonate (220 mg, 2.6 mmol). The reaction mixture was stirred at room temperature overnight before concentrating in vacuo. Water (15 ml) was added and the reaction mixture was extracted with ethyl acetate (2×20 ml). The combined organic extracts were treated with water (15 ml) upon which a buff solid precipitated. The biphasic mixture was filtered to afford 380 mg of a buff solid. The biphasic filtrate was separated and the organic layer was dried (MgSO4), and concentrated in vacuo to afford a further 80 mg of buff solid. The combined buff solid was warmed to 60° C. in methanol and allowed to slowly cool to room temperature upon which the title compound was collected by filtration as an off-white solid (340 mg, 63%).

reactant | 1-benzofuran-2-carboxylic acid | 1.24 mmol, 201 mg | O1C(=CC2=C1C=CC=C2)C(=O)O | C9H6O3
reactant | 1-hydroxybenzotriazole monohydrate | 1.31 mmol, 200 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.77 mmol, 340 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-[3-(6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]methanesulfonamide | 1.3 mmol, 400 mg | CC1(C2CNCC12)C=1C=C(C=CC1)NS(=O)(=O)C | C13H18N2O2S
reactant | sodium hydrogen carbonate | 2.6 mmol, 220 mg | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | N-{3-[3-(1-Benzofuran-2-ylcarbonyl)-6-methyl-3-azabicyclo[3.1.0]hex-6-yl]phenyl}methanesulfonamide | O1C(=CC2=C1C=CC=C2)C(=O)N2CC1C(C1C2)(C)C=2C=C(C=CC2)NS(=O)(=O)C | C22H22N2O4S
